US04895996
A solution of 5.16 g (20 mmoles) of 1-benzyl-4-morpholino-1,2,3,6-tetrahydropyridine in 10 ml of tetrahydrofuran (THF) is added to 2.44 g (20 mmoles) of solid 9-BBN. A suspension results which becomes clear after stirring for 6 hours at 25° C. The THF is removed under reduced pressure (20 Torr) and 2 ml of methanol is added to the remaining solid. An exothermic reaction is initiated by gentle warming and results in a clear solution which is stirred. The stirring is stopped and the mixture is cooled slowly to crystallize the by-product, B-(morpholino)-9-BBN methanol complex. The solid is triturated with n-pentane (3×30 ml) and the combined pentane layers are washed successively with water (3×10 ml), 3N sodium hydroxide (3×6 ml) and water (2×10 ml). The pentane layer is evaporated. The residue is purified by distillation to give 2.90 g (85 percent yield based on 1-benzyl-4-morpholino-1,2,3,6-tetrahydropyridine) of 1 -benzyl-1,2,3,6-tetrahydropyridine, boiling point 98° C.-100° C. at 1 Torr.

reactant | 1-benzyl-4-morpholino-1,2,3,6-tetrahydropyridine | 20 mmoles, 5.16 g | C(C1=CC=CC=C1)N1CCC(=CC1)N1CCOCC1 | C16H22N2O
reactant | 9-BBN | B1C2CCCC1CCC2 | C8H15B
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1 -benzyl-1,2,3,6-tetrahydropyridine | 2.90 g, 85 percent yield | C(C1=CC=CC=C1)N1CCC=CC1 | C12H15N
